US09260418B2
6-[(6-Chloropyridin-3-yl)methyl]-3-piperidin-4-ylbenzo[h]quinazolin-4(3H)-one
A solution of benzyl 4-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3 (4H)-yl]piperidine-1-carboxylate (0.130 g, 0.241 mmol) in 3 mL of HBr/acetic acid solution (48.0% wt, 264 mmol) was stirred at rt for 3 h. The mixture was concentrated in vacuo and azetroped 3× with toluene. The residue was purified via preparative reverse phase HPLC to provide the title compound that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 404.9 for M+H+: 1H NMR (400 MHz, d6-DMSO) δ 9.07 (d, J=7.7 Hz, 1H), 8.47 (s, 1H), 8.30 (s, 1H), 8.12 (d, J=7.9 Hz, 1H), 8.11 (s, 1H), 7.80-7.66 (m, 3H), 7.37 (d, J=8.3 Hz, 1), 3.64 (s, 2H), 3.65-3.61 (m, 2H), 3.31-3.23 (m, 2H), 2.62-2.52 (m, 2H), 2.26 (d, J=12.5 Hz, 2H).

reactant | benzyl 4-[6-[(6-chloropyridin-3-yl)methyl]-4-oxobenzo[h]quinazolin-3 (4H)-yl]piperidine-1-carboxylate | 0.241 mmol, 0.130 g | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)C2CCN(CC2)C(=O)OCC2=CC=CC=C2)=O | C31H27ClN4O3
solvent | HBr acetic acid | 3 mL | Br.C(C)(=O)O
product | 6-[(6-Chloropyridin-3-yl)methyl]-3-piperidin-4-ylbenzo[h]quinazolin-4(3H)-one | ClC1=CC=C(C=N1)CC=1C=C2C(N(C=NC2=C2C1C=CC=C2)C2CCNCC2)=O | C23H21ClN4O
